US05478938
STEP A: Ethyl 3-oxo-heptanoate
70.8 g of ethyl carbonate in solution in 50 ml of ether were added to a suspension of 27.3 g of sodium hydride at 50% in oil (washed beforehand in heptane) and 250 ml of ether and the mixture was stirred for 10 minutes. 30 g of hexanone were added over 30 minutes and the mixture was refluxed for 2 hours. 35 ml of ether with 12 ml of ethanol were added and the mixture was stirred for 16 hours at ambient temperature. After cooling to 0° C., a solution of 36 ml of acetic acid in 300 ml of water, then 12 ml of a saturated sodium bicarbonate solution were added, and the pH was 7. Extraction was carried out with ether and the extracts were washed with water, dried and evaporated to dryness. After distillation to 70° C. under a reduced pressure of 7 mbar, 32.5 g of the desired product were obtained.

reactant | ethyl carbonate | 70.8 g | C(OCC)([O-])=O
reactant | sodium hydride | 27.3 g | [H-].[Na+]
reactant | hexanone | 30 g | CC(CCCC)=O | C6H12O
reactant | sodium bicarbonate | 12 ml | C([O-])(O)=O.[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | heptane | CCCCCCC | C7H16
solvent | water | 300 ml | O | H2O
solvent | ether | 35 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | Ethyl 3-oxo-heptanoate | 32.5 g | O=C(CC(=O)OCC)CCCC | C9H16O3
